US04871842
A mixture of 5 g of L-alanine tert-butyl ester·oxalate, 11 g of ethyl 6-(1-benzyloxycarbonyl-4-piperidyl)-2-oxohexanoate, 1.6 g of sodium acetate, 1.2 g of acetic acid and 100 ml of ethanol is stirred at room temperature for 1 hour, and a solution of 1.9 g of sodium cyanoborohydride in 100 ml of ethanol is added dropwise to the mixture over a period of 4 hours. After stirring at room temperature overnight, 500 ml of water is added to the reaction mixture, and the mixture is extracted with 300 ml of ethyl acetate. The extract is washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue is separated and purified by silica gel column chromatography (hexane:acetone=4:1), whereby the first fraction yields 1.7 g of N-[(R)-5-(1-benzyloxycarbonyl-4-piperidyl)-1-ethoxycarbonylpentyl]-L-alanine tert-butyl ester as a colorless oil.

reactant | L-alanine tert-butyl ester·oxalate | 5 g | C(C)(C)(C)OC([C@@H](N)C)=O.C(C(=O)[O-])(=O)[O-]
reactant | ethyl 6-(1-benzyloxycarbonyl-4-piperidyl)-2-oxohexanoate | 11 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCCC(C(=O)OCC)=O | C21H29NO5
reactant | sodium acetate | 1.6 g | C(C)(=O)[O-].[Na+]
reactant | sodium cyanoborohydride | 1.9 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 500 ml | O | H2O
solvent | acetic acid | 1.2 g | C(C)(=O)O | C2H4O2
product | N-[(R)-5-(1-benzyloxycarbonyl-4-piperidyl)-1-ethoxycarbonylpentyl]-L-alanine tert-butyl ester | 1.7 g | C(C)(C)(C)OC([C@@H](N[C@H](CCCCC1CCN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)OCC)C)=O | C28H44N2O6
